US06235771B1
To a solution of 4-bromo-N-ethylaniline (17.08 g) in DMF (100 ml) were added at room temperature potassium carbonate (17.1 g), sodium iodide (12.4 g) and 2-bromoethylethyl ether (10.2 ml), and the mixture was stirred at 90° C. for 24 hours. To the mixture were added 2-bromoethylethyl ether (5.0 ml), potassium carbonate (6.22 g) and sodium iodide (6.64 g), and the mixture was stirred for 2 days. To the mixture were added 2-bromoethylethyl ether (10.0 ml), potassium carbonate (17.1 g) and sodium iodide (12.4 g), and the mixture was stirred at 90° C. for 3 days. To the mixture was added water, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine and dried with magnesium sulfate. Under reduced pressure, the solvent was evaporated, and the residue was purified with silica gel column chromatography (ethyl acetate/hexane=1:9) to give yellow oil of 4-bromo-N-(2-propoxyethyl)-N-ethylaniline (18.11 g).

reactant | 4-bromo-N-ethylaniline | 17.08 g | BrC1=CC=C(NCC)C=C1 | C8H10BrN
reactant | potassium carbonate | 17.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 12.4 g | [I-].[Na+]
reactant | 2-bromoethylethyl ether | 10.2 ml | BrCCOCC | C4H9BrO
reactant | 2-bromoethylethyl ether | 5.0 ml | BrCCOCC | C4H9BrO
reactant | potassium carbonate | 6.22 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 6.64 g | [I-].[Na+]
reactant | 2-bromoethylethyl ether | 10.0 ml | BrCCOCC | C4H9BrO
reactant | potassium carbonate | 17.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 12.4 g | [I-].[Na+]
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-bromo-N-(2-propoxyethyl)-N-ethylaniline | 18.11 g | BrC1=CC=C(N(CC)CCOCCC)C=C1 | C13H20BrNO
